US05859007
2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To 561 mg (0.95 mmol) of 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 75, is added 10 mL of a 4N solution of HCl in dioxane. The reaction is stirred overnight at RT. The reaction is concentrated, then purified by silica gel flash column chromatography (gradient 2:1-4:1 ethyl acetate:hexanes) to afford an oil which is triturated from hexane to afford 284 mg of the title compound as a white powder: 1H NMR (CDCl3, 400 MHz) δ8.49 (d, br, 2H), 7.79 (d, 2H, J=8.0), 7.29-7.07 (m, 8H) 6.95-6.85 (m, 4H ) 4.94 (m, 1H), 4.38 (d, br, 1H, J=15.6) 4.25-4.14 (m, 2H) 3.82 (s, 3H) 3.77 (m, 1H) 3.60 (dd, 1H, J=6.0, 16.1) 1.02 (t, 6H, J=7.7); low resolution MS (FAB)m/e 589 (MH+); Anal. (C34H32N6O4) Calcd. C, 69.4; H, 5.5; N, 14.3 Found C, 68.4; H, 5.6; N, 14.1. To a stirred solution of 1.0 g (1.69 mmol) of the title compound in 10 mL of DCM is added 1.86 mL (2.54 mmol, 1.5 equiv.) of a 1.36M solution of 2-Oxo-4-thiazolidinecarboxylic acid chloride in DCM (prepared by stirring 1.0 g (6.8 mmol) of (-)-2-Oxo-4-thiazolidine carboxylic acid, 0.593 mL (6.8 mmol), and 0.1 mL DMF in 50.0 mL DCM until gas evolution stopped). The solution is stirred at RT for 4 h and then concentrated in vacuo. Purification by silica gel gravity column chromatography using DCM/THF 8/2 as eluent afforded 415 mg of the less polar eluting diastereomer as 2-{2,4-Dioxo-3-[1-(2-oxo-thiazolidine-4-carbonyl)-1H-indazol-3-yl methyl]-5-pyridin-3-yl-2,3,4,5-tetrahydro benzo[b][1,4]diazepin-1-yl}-N-isopropyl-N-(4-methoxyphenyl) acetamide. 1H NMR (CDCl3, 300 MHz) δ8.53 (d, 1H, J=4), 8.45 (s, 1H), 8.33 (d, 1H, J=28), 7.82 (d, 1H, J=26), 7.72 (d, 1H, J=9), 7.62-7.57 (m, 2H), 7.45-6.94 (m, 9H), 6.72 (s, 1H), 5.62 (bt, 1H), 5.05-4.90 (m, 1H), 4.51-4.42 (m, 2H), 3.97-3.87 (m, 2H), 3.83 (s, 3H), 3.75 (dd, 1H, J=5, 18), 3.64-3.57 (m, 2H), 3.48 (dd, 1H, J=4, 22), 1.10 (d, 3H, J=7), 0.97 (d, 3H, J=7).

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.95 mmol, 561 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C39H40N6O6
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 284 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C34H32N6O4
